US08071592B2
(c) Methyl 6-oxo-5,6-dihydro-1,5-naphthyridine-3-carboxylate
A mixture of methyl 6-(methyloxy)-1,5-naphthyridine-3-carboxylate (1.45 g, 6.65 mmol) in 30% HBr in acetic acid (40 ml) was stirred at rt for 18 h before evaporation and drying in vacuo. The solid was washed with Et2O and dried in vacuo to give the desired product as the dihydrobromide salt (2.425 g, 99%).

reactant | methyl 6-(methyloxy)-1,5-naphthyridine-3-carboxylate | 6.65 mmol, 1.45 g | COC=1N=C2C=C(C=NC2=CC1)C(=O)OC | C11H10N2O3
solvent | HBr | Br | BrH
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | Methyl 6-oxo-5,6-dihydro-1,5-naphthyridine-3-carboxylate | O=C1NC=2C=C(C=NC2C=C1)C(=O)OC | C10H8N2O3
